US04572912
A mixture of 2.0 g of ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate (prepared as described in Preparation 45), 0.62 g of thiourea, and 3.1 g of sulfolane was heated at 120°-125° C. for 7 hours under a nitrogen stream. The reaction mixture was extracted with benzene and then the benzene was distilled off from the extract. Water was then added to the residue and the oily layer was separated. The oily layer was subjected to silica gel column chromatography [successively with an eluent of (1) a 2:1 by volume mixture of n-hexane and ethyl acetate, (2) ethyl acetate, and (3) a 1:1 by volume mixture of ethyl acetate and ethanol] to yield 5-[4-(6-acetoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)benzyl]-2-iminothiazolidin-4-one in a yield of 0.74 g. This was further purified by recrystallization from ethyl acetate, to give the purified title compound melting at was 218°-222° C.

reactant | ethyl 3-[4-(6-acetoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)phenyl]-2-chloropropionate | 2.0 g | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)CC(C(=O)OCC)Cl)=O)C | C27H31ClO7
reactant | thiourea | 0.62 g | NC(=S)N | CH4N2S
reactant | sulfolane | 3.1 g | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-[4-(6-acetoxy-2,5,7,8-tetramethyl-4-oxochroman-2-ylmethoxy)benzyl]-2-iminothiazolidin-4-one | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(C)COC1=CC=C(CC2C(NC(S2)=N)=O)C=C1)=O)C | C26H28N2O6S
